US08975400B2
4-(2-fluoro-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)-2-methylbenzonitrile
Prepared in a manner similar to that described for E1 using 4-(2-fluoro-4-(hydroxymethyl)phenoxy)-2-methylbenzonitrile (1.00 g, 3.89 mmol) in DMF (10 mL), sodium hydride (0.280 g, 11.7 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]p-yrimidin-5(1H)-one (0.721 g, 3.89 mmol).

reactant | 4-(2-fluoro-4-(hydroxymethyl)phenoxy)-2-methylbenzonitrile | 3.89 mmol, 1.00 g | FC1=C(OC2=CC(=C(C#N)C=C2)C)C=CC(=C1)CO | C15H12FNO2
reactant | sodium hydride | 11.7 mmol, 0.280 g | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]p-yrimidin-5(1H)-one | 3.89 mmol, 0.721 g | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)-2-methylbenzonitrile | FC1=C(OC2=CC(=C(C#N)C=C2)C)C=CC(=C1)COC=1C=C2N(C(N1)=O)CCN2C | C22H19FN4O3
